### PR TITLE
feat(RingTheory/Ideal/GoingDown): fill sorry for localization-isom under going-down

### PR DESCRIPTION
**Pull request by chrisflav**
Fills the `sorry` in `Proetale/Mathlib/RingTheory/Ideal/GoingDown.lean`.

Proves [Stacks 00EA, (1) + (2)(a)](https://stacks.math.columbia.edu/tag/00EA): if `R → S` has going down and there is at most one prime of `S` above every prime of `R`, then for every prime `q` of `S` lying over `p`, `Localization.AtPrime q` is the localization of `S` at the image of `R \ p` (i.e. the natural map `S_{pS} → S_q` is an isomorphism).

The previous statement `Algebra.HasGoingDown.factor_bijective_of_subsingleton` phrased the same fact via `Ideal.Quotient.factor`. It is replaced by `Algebra.HasGoingDown.localization_bijective_of_subsingleton`, stated as an `IsLocalization (Algebra.algebraMapSubmonoid S p.primeCompl) (Localization.AtPrime q)` claim, which is more directly usable.

### Proof outline
Let `T := algebraMapSubmonoid S p.primeCompl`. We have `T ≤ q.primeCompl` from `q.LiesOver p`. It suffices to show every `t ∈ q.primeCompl` becomes a unit in `Localization T`. Suppose not. Then `(t) ∩ T = ∅`, so by `Ideal.exists_le_prime_disjoint` there is a prime `q' ⊇ (t)` of `S` disjoint from `T`. Its contraction `p' = Ideal.under R q'` is contained in `p`; by going down (`Ideal.exists_ideal_le_liesOver_of_le`) there is a prime `P ≤ q` of `S` lying over `p'`. The uniqueness hypothesis forces `P = q'`, so `t ∈ q' = P ⊆ q`, contradicting `t ∉ q`. Apply `IsLocalization.of_le` and transport along `IsLocalization.algEquiv`.

The blueprint reference (`thm:localization-isom-of-going-down`) is updated to point to the new name; it already carries `\leanok`.

Sourced from the `archon` branch (issue #53).

### CODE REVIEW

**Comment by chrisflav** [comment]
orchestra polish

File: blueprint/src/chapters/local-structure.tex
Comment (chrisflav) [inline blueprint/src/chapters/local-structure.tex:411]: Add a \leanok to the proof here.

File: Proetale/Mathlib/RingTheory/Ideal/GoingDown.lean [hunk 1]
```diff
@@ -15,11 +15,47 @@ theorem Algebra.HasGoingDown.specComap_surjective_of_closedPoints_subset_preimag
...
+    by_contra hno
+    have hdisj : Disjoint ((Ideal.span {t} : Ideal S) : Set S) (T : Set S) := by
+      rw [Set.disjoint_left]
+      intro m hm hmT
+      rw [SetLike.mem_coe, Ideal.mem_span_singleton] at hm
+      exact hno ⟨m, hmT, hm⟩
+    obtain ⟨q', hq', htq', hdisj'⟩ :=
+      Ideal.exists_le_prime_disjoint (Ideal.span {t}) T hdisj
+    have : q'.IsPrime := hq'
+    have : q'.LiesOver (Ideal.under R q') := ⟨rfl⟩
```
Comment (chrisflav) [inline Proetale/Mathlib/RingTheory/Ideal/GoingDown.lean]: This should be automatic.

File: Proetale/Mathlib/RingTheory/Ideal/GoingDown.lean [hunk 2]
```diff
@@ -15,11 +15,47 @@ theorem Algebra.HasGoingDown.specComap_surjective_of_closedPoints_subset_preimag
...
+    rw [IsLocalization.algebraMap_isUnit_iff T]
+    by_contra hno
+    have hdisj : Disjoint ((Ideal.span {t} : Ideal S) : Set S) (T : Set S) := by
+      rw [Set.disjoint_left]
+      intro m hm hmT
+      rw [SetLike.mem_coe, Ideal.mem_span_singleton] at hm
+      exact hno ⟨m, hmT, hm⟩
+    obtain ⟨q', hq', htq', hdisj'⟩ :=
+      Ideal.exists_le_prime_disjoint (Ideal.span {t}) T hdisj
+    have : q'.IsPrime := hq'
```
Comment (chrisflav) [inline Proetale/Mathlib/RingTheory/Ideal/GoingDown.lean]: Don't duplicate already available assumptions.

**Comment by chrisflav** [comment]
orchestra address review. Do the above and also merge latest master into this branch.
